US07501410B2
1-[tert-Butoxycarbonyl-(1-tert-butoxycarbonyl-5-methyl-1H-pyrazol-3-yl)-amino]-3-isopropyl-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid (13 mg, 0.025 mmol) was dissolved in DMF (2 ml). To this was added morpholine (6.4 mg, 0.075 mmol) and the reaction mixture was cooled to 0° C., 2-(1H-Benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (TBTU) (15 mg, 0.03 mmol) and TEA (0.014 ml, 0.1 mmol) were added consecutively and the reaction mixture stirred at RT for 24 hours. After this time, the reaction mixture was partitioned between EtOAc (10 ml) and water (10 ml). The organic layer was separated, dried (MgSO4), filtered and concentrated under vacuum. The resulting residue (13.0 mg, 0.02 mmol) was dissolved in a 20% TFA/DCM solution (2 ml) and the reaction mixture was stirred for 48 hours. After this time, the reaction mixture was concentrated and the resulting residue was triturated with diethyl ether to give the corresponding 2-Isopropyl-4-(5-methyl-1H-pyrazol-3-ylamino)-7-(morpholine-4-carbonyl)-2H-phthalazin-1-one (Example M-2). 1H-NMR: (400 MHz, D6-DMSO) 9.40 (1H, s), 8.50 (1H, d), 8.23 (1H, s), 7.91 (1H, d), 6.36 (1H, s), 5.28-5.21 (1H, m), 4.12-3.30 (8H, obscured) 2.26 (3H, s), 1.33 (6H, d) MS (ESI+)=(M+H)+ 397.21.

reactant | 1-[tert-Butoxycarbonyl-(1-tert-butoxycarbonyl-5-methyl-1H-pyrazol-3-yl)-amino]-3-isopropyl-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid | 0.025 mmol, 13 mg | C(C)(C)(C)OC(=O)N(C1=NN(C(C2=CC(=CC=C12)C(=O)O)=O)C(C)C)C1=NN(C(=C1)C)C(=O)OC(C)(C)C | C26H33N5O7
reactant | morpholine | 0.075 mmol, 6.4 mg | N1CCOCC1 | C4H9NO
reactant | 2-(1H-Benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.03 mmol, 15 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | TFA DCM | 2 ml | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 2-Isopropyl-4-(5-methyl-1H-pyrazol-3-ylamino)-7-(morpholine-4-carbonyl)-2H-phthalazin-1-one | C(C)(C)N1C(C2=CC(=CC=C2C(=N1)NC1=NNC(=C1)C)C(=O)N1CCOCC1)=O | C20H24N6O3
